US20010025109A1
7.6 g (55 mol) of potassium carbonate are added to a suspension of 9.9 g (50 mmol) of O-acetyl-L-homoserine hydrochloride and 7.8 g (55 mmol) of trifluoroacetylacetic acid ethyl ester in 200 ml of ethanol, and stirring is carried out for 14 hours. 10.8 g (110 mmol) of 37% hydrochloric acid and 200 ml of water are then added. The product obtained after removal of the ethanol by distillation is filtered off with suction, washed with water and dried. 5.8 g (45%) of N-trifluoroacetyl-O-acetyl-L-homoserine are obtained.

reactant | potassium carbonate | 55 mol, 7.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | O-acetyl-L-homoserine hydrochloride | 50 mmol, 9.9 g | Cl.C(C)(=O)OCC[C@H](N)C(=O)O
reactant | trifluoroacetylacetic acid ethyl ester | 55 mmol, 7.8 g | C(C)OC(CC(C(F)(F)F)=O)=O | C6H7F3O3
reactant | hydrochloric acid | 110 mmol, 10.8 g | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | N-trifluoroacetyl-O-acetyl-L-homoserine | 5.8 g, 45% | FC(C(=O)N[C@@H](CCOC(C)=O)C(=O)O)(F)F | C8H10F3NO5
